US03931192
To a solution containing 3.07 ml. of methylene chloride in 60 ml. of anhydrous tetrahydrofuran cooled to -70°, there was added over a period of 1 hour 44 mmoles of n-butyllithium in 28 ml. of hexane under an atmosphere of dry nitrogen. Stirring of the mixture at the same temperature was continued for 20 minutes and then followed by the dropwise addition of 5.19 g. (20 mmoles) of 2-[1-benzoyl-3(R)-vinyl-4(S)-piperidinyl]acetaldehyde in 30 ml. of anhydrous tetrahydrofuran. After 30 minutes, the reaction was quenched by the addition of 30 ml. of water. The mixture was allowed to warm up to room temperature and was subsequently extracted three times with ether. The combined ether extracts were washed with water, dried over sodium sulfate and evaporated to dryness. The residue was dissolved in 80 ml. of 3N hydrochloric acid. The acidic solution was washed with ether and neutralized with 3N sodium hydroxide. The solution was washed again with ether, rendered alkaline by the addition of 3N sodium hydroxide and extracted with ether. The ether extract was washed with water, dried over sodium sulfate and evaporated to dryness. The residue (3.8 g.) was dissolved in ethanol and treated with an excess of ethanolic hydrogen chloride. The solvent was evaporated under reduced pressure and the resulting solid residue was crystallized from ethanol to give 2.0 g. of a mixture of epimeric 1,1-dichloro-3-[3(R)-vinyl-4(S)-piperidinyl]propan-2ε-ol hydrochlorides. Fractional crystallization from ethanol followed by recrystallization of the combined fractions from ethanol gave 1,1-dichloro-3-[3(R)-vinyl-4(S)-piperidinyl]propan-2(S)-ol hydrochloride, m.p. 225°-225.5°, [α]D25 -13.3° (c 1.02, methanol).

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | n-butyllithium | 44 mmoles | C(CCC)[Li]
reactant | 2-[1-benzoyl-3(R)-vinyl-4(S)-piperidinyl]acetaldehyde | 20 mmoles | C(C1=CC=CC=C1)(=O)N1C[C@@H]([C@@H](CC1)CC=O)C=C | C16H19NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,1-dichloro-3-[3(R)-vinyl-4(S)-piperidinyl]propan-2(S)-ol hydrochloride | Cl.ClC([C@H](C[C@H]1[C@H](CNCC1)C=C)O)Cl | InChI=1S/C10H17Cl2NO.ClH/c1-2-7-6-13-4-3-8(7)5-9(14)10(11)12;/h2,7-10,13-14H,1,3-6H2;1H/t7-,8-,9-;/m0./s1
